US05063146
To 5.7 g of 3-(3-chlorophenylamino)-1-phenyl-2-pyrazolin-5-one were added 30 ml of acetic acid and 4 g of ethyl acetoacetate and the solution was heated at a bath temperature of 150° C. for 10 hours and 20 minutes while stirring. Any insoluble matter was collected by filtration while hot, washed with isopropanol, and air-dried to obtain 2.3 g of 7-(3-chlorophenyl)-2-phenyl-4-methylpyrazolo[3,4-b]pyridine-3,6-dione having a melting point of 278° to 282° C.

reactant | 3-(3-chlorophenylamino)-1-phenyl-2-pyrazolin-5-one | 5.7 g | ClC=1C=C(C=CC1)NC1=NN(C(C1)=O)C1=CC=CC=C1 | C15H12ClN3O
reactant | ethyl acetoacetate | 4 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 7-(3-chlorophenyl)-2-phenyl-4-methylpyrazolo[3,4-b]pyridine-3,6-dione | 2.3 g | ClC=1C=C(C=CC1)N1C2=C(C(=CC1=O)C)C(N(N2)C2=CC=CC=C2)=O | C19H14ClN3O2
